US08304557B2
6-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide
A mixture of N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide (10.41 g, 32.5 mmol), p-toluenesulfonyl chloride (6.83 g, 35.8 mmol) and pyridine (75 mL) was stirred at 80° C. for 2 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate-hexane to give the title compound (14.8 g, 96%) as a pale-brown solid.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 32.5 mmol, 10.41 g | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)C | C18H16N4O2
reactant | p-toluenesulfonyl chloride | 35.8 mmol, 6.83 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 6-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide | 14.8 g, 96% | CC1=CC=CC(=N1)C(=O)NC1=CC(=CC=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C25H22N4O4S
